US09029405B2
Step 2: tert-butyl 2-[(3-cyano-5-fluorobenzyl)amino]-2-methylpropanoate
The title compound was prepared following the general procedure 11, starting from 3-(aminomethyl)-5-fluorobenzonitrile and 2-bromoisobutyrate, affording the title compound as a light yellow liquid (5 g, 91%). 1H NMR (DMSO-d6, 400 MHz): δ 7.67 (d, J=7 Hz, 2H), 7.57 (d, J=9.5 Hz, 1H), 3.67 (d, 2H), 2.67 (t, 1H), 1.40 (s, 9H), 1.19 (s, 6H). LC/MS (Method A) 293.2 (M+H)+. HPLC (Method A) Rt: 2.29 min (Purity: 99.7%).

reactant | 3-(aminomethyl)-5-fluorobenzonitrile | NCC=1C=C(C#N)C=C(C1)F | C8H7FN2
reactant | 2-bromoisobutyrate | BrC(C(=O)[O-])(C)C
product | tert-butyl 2-[(3-cyano-5-fluorobenzyl)amino]-2-methylpropanoate | 5 g, 91% | C(#N)C=1C=C(CNC(C(=O)OC(C)(C)C)(C)C)C=C(C1)F | C16H21FN2O2
